US05073551
In like manner as in Example 20 sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (0.5 g) was reacted with DL-2-bromoethyl acetate (0.23 g) thereby DL-1-acetyloxyethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (0.13 g) was obtained.

reactant | sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 0.5 g | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)[O-])C1=O)=N/O.[Na+]
reactant | 2-bromoethyl acetate | 0.23 g | C(C)(=O)OCCBr | C4H7BrO2
product | 1-acetyloxyethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 0.13 g | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)OC(C)OC(C)=O)C1=O)=N/O | C20H19N7O7S3
